US04359420
A solution of 4.14 g (14.5 mmol) of sodium carbonate decahydrate in 20 ml of water is added dropwise to a mixture of 3.0 g (11.6 mmol) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde, 0.99 g (14.5 mmol) of hydroxylamine hydrochloride and 60 ml of water, the mixture is stirred at 70° C. for 1 hour, cooled in an ice-bath and the separated material is filtered off under suction and washed with water. The still moist substance is recrystallised from ethanol and yields 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde-3-oxime of melting point 247°-250° C.

reactant | sodium carbonate decahydrate | 14.5 mmol, 4.14 g | O.O.O.O.O.O.O.O.O.O.C([O-])([O-])=O.[Na+].[Na+]
reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 11.6 mmol, 3.0 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=O)C)=O)C1 | C13H10FN3O2
reactant | hydroxylamine hydrochloride | 14.5 mmol, 0.99 g | Cl.NO
solvent | water | 20 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde-3-oxime | FC=1C=CC2=C(C(N(CC=3N2C=NC3C=NO)C)=O)C1 | C13H11FN4O2
